US09085577B2
(4-Chloro-3-iodo-pyridin-2-yl)-hydrazine (D45)
To a solution of 2,4-dichloro-3-iodopyridine [CAS 343781-36-3] (4.7 g, 17.16 mmol) in 1,4-dioxane (240 ml), was added hydrazine monohydrate (5.096 ml, 102.962 mmol). The reaction mixture was heated in a sealed tube at 80° C. for 16 h. After cooling, the solvent was concentrated in vacuo. The white solid residue thus obtained was dissolved in DCM and washed with NaHCO3 (aqueous saturated solution). The organic layer was separated, dried (Na2SO4) and concentrated in vacuo. The residue was washed with diethylether. The solid thus obtained was discarded. The mothe liquours were concentrated in vacuo to yield intermediate compound D45 (2.31 g, 49%)

reactant | 2,4-dichloro-3-iodopyridine | 17.16 mmol, 4.7 g | ClC1=NC=CC(=C1I)Cl | C5H2Cl2IN
reactant | hydrazine monohydrate | 102.962 mmol, 5.096 ml | O.NN
solvent | 1,4-dioxane | 240 ml | O1CCOCC1 | C4H8O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (4-Chloro-3-iodo-pyridin-2-yl)-hydrazine | ClC1=C(C(=NC=C1)NN)I | C5H5ClIN3
